US04281188
57.5 g (0.18 M) of (S)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 600 ml of absolute acetone. The solution is treated with 48 g of powdered potassium carbonate and 21 ml of methyl iodide and stirred at room temperature for 5 hours. The mixture is concentrated and the residue is treated with ice-water and extracted several times with methylene chloride. The methylene chloride solution is washed with water, dried over sodium sulphate, filtered and concentrated. The residue is crystallised from ether/petroleum ether and there is obtained (S)-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one which melts at 118°-126° C. with decomposition; [α]25D =+563.1° (in methylene chloride; 1%).

reactant | (S)-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.18 M, 57.5 g | FC1=C(C=CC=C1)C1=N[C@H](C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C16H12FN3O3
reactant | potassium carbonate | 48 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 21 ml | CI | CH3I
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | (S)-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=N[C@H](C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)C | C17H14FN3O3
